US05135932
6-[1-[2-[3-(4-Isopropylsulphonyloxy-phenoxy)-2-hydroxypropylamino]ethyl]-2-hydroxy-benzimidazol-5-yl]-4,5-dihydro-3(2H)-pyridazinone
Prepared analogously to Example 1 from 1-(4-isopropylsulphonyloxy-phenoxy)-2,3-epoxypropane and 6-[1-(2-aminoethyl)-2-hydroxy-benzimidazol-5-yl]-4,5-dihydro-3(2H)-pyridazinone.

reactant | 1-(4-isopropylsulphonyloxy-phenoxy)-2,3-epoxypropane | C(C)(C)S(=O)(=O)OC1=CC=C(OCC2CO2)C=C1 | C12H16O5S
reactant | 6-[1-(2-aminoethyl)-2-hydroxy-benzimidazol-5-yl]-4,5-dihydro-3(2H)-pyridazinone | NCCN1C(=NC2=C1C=CC(=C2)C=2CCC(NN2)=O)O | C13H15N5O2
product | 6-[1-[2-[3-(4-Isopropylsulphonyloxy-phenoxy)-2-hydroxypropylamino]ethyl]-2-hydroxy-benzimidazol-5-yl]-4,5-dihydro-3(2H)-pyridazinone | C(C)(C)S(=O)(=O)OC1=CC=C(OCC(CNCCN2C(=NC3=C2C=CC(=C3)C=3CCC(NN3)=O)O)O)C=C1 | C25H31N5O7S
